US04058559
Step (B) 4-Benzoyl-2,3-dichlorophenoxyaceto nitrile
A mixture of 26.70 g. (0.10 mole) of 4-benzoyl-2,3-dichlorophenol, 7.40 g. (0.10 mole) of chloroaceto nitrile, 10.40 g. (0.15 mole) of anhydrous K2CO3 and catalytic amount of KI in 200 ml. of acetone was refluxed overnight. The residue was triturated with ether and the product was collected by filtration and dried to yield 22.80 g. (75%); m.p. 110°-112°. This product was used in the next step without further purification.

reactant | 4-benzoyl-2,3-dichlorophenol | 0.10 mole | C(C1=CC=CC=C1)(=O)C1=C(C(=C(C=C1)O)Cl)Cl | C13H8Cl2O2
reactant | chloroaceto nitrile | 0.10 mole | ClCC#N | C2H2ClN
reactant | K2CO3 | 0.15 mole | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-Benzoyl-2,3-dichlorophenoxyaceto nitrile | C(C1=CC=CC=C1)(=O)C1=C(C(=C(OCC#N)C=C1)Cl)Cl | C15H9Cl2NO2
